US03979516
Preparation of 3-(4-methylpiperazino)-5,6-bis(4-methoxyphenyl)-1,2,4-triazine
Ten grams of 5,6-bis(4-methoxyphenyl)-3-methylthio-1,2,4-triazine and 40 ml. of N-methylpiperazine were refluxed for 12 hours. The reaction mixture was poured into water and the solid product was collected. The product was crystallized twice from 75 ml. of ethanol and twice from ethyl acetate to yield 1.8 g. of 3-(4-methylpiperazino)-5,6-bis(4-me;thoxyphenyl)-1,2,4-triazine, mp about 158°-160°C.

reactant | 5,6-bis(4-methoxyphenyl)-3-methylthio-1,2,4-triazine | Ten grams | COC1=CC=C(C=C1)C=1N=C(N=NC1C1=CC=C(C=C1)OC)SC | C18H17N3O2S
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | water | O | H2O
product | 3-(4-methylpiperazino)-5,6-bis(4-methoxyphenyl)-1,2,4-triazine | CN1CCN(CC1)C=1N=NC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C22H25N5O2
